US05935993
(E)-2-Cyanomethylsulfonyl-3-(3,5-diisopropyl-4-hydroxyphenyl)acrylonitrile
A mixture of 500 mg of 3,5-diisopropyl-4-hydroxybenzaldehyde and 700 mg of sulphonyl diacetonitrile in 6 ml of ethanol was refluxed with a few drops of piperidine for 4 hours. Ethanol was removed in a rotavap and the mixture worked up with ethyl acetate, diluted acid and brine. A portion of the crude was then purified by HPLC on a C-18 column to provide 50 mg of the titled compound along with 30 mg of (E,E)-2-[[1-Cyano-2-(3,5diisopropyl-4-hydroxyphenyl)ethenyl]sulfonyl]-3,5-diisopropyl-4-hydroxyphenyl)acrylonitrile.

reactant | 3,5-diisopropyl-4-hydroxybenzaldehyde | 500 mg | C(C)(C)C=1C=C(C=O)C=C(C1O)C(C)C | C13H18O2
reactant | sulphonyl diacetonitrile | 700 mg | S(=O)(=O)(CC#N)CC#N | C4H4N2O2S
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | piperidine | a few drops | N1CCCCC1 | C5H11N
product | (E)-2-Cyanomethylsulfonyl-3-(3,5-diisopropyl-4-hydroxyphenyl)acrylonitrile | 50 mg | C(#N)CS(=O)(=O)\C(\C#N)=C\C1=CC(=C(C(=C1)C(C)C)O)C(C)C | C17H20N2O3S
